US08247412B2
Synthesis of fluoren-9-ylidene-acetic acid ethyl ester, 4
2 g (11.1 mmol, 1 eq) of 9-fluorenone in 15 mL of dry THF are dissolved in a flask equipped with a condenser, under Ar. 2.86 mL (14.43 mmol, 1.3 eq) of triethylphosphonoacetate are introduced and 577 mg (14.43 mmol, 1.3 eq) of 60% NaH in oil are added batchwise to the solution. The mixture is heated for 3 hours at 70-80° C. 1.10 mL (5.55 mmol, 1 eq) of triethylphosphonoacetate and 222 mg (5.55 mmol, 1 eq) of 60% NaH in oil are added to the medium. The mixture is stirred for 2 hours at 70-80° C. Water is added, then the THF is concentrated. The basic aqueous phase is extracted with AcOEt and the organic phase is washed with brine, dried over MgSO4, filtered and concentrated. The oil obtained is subjected to chromatography over silica gel (eluant: heptane/DCM: 1/0 to 0/1). A product in the form of yellow crystals is obtained (m=1.86 g, yield=67%).

reactant | 9-fluorenone | 11.1 mmol, 2 g, 1 eq | C1=CC=CC=2C3=CC=CC=C3C(C12)=O | C13H8O
reactant | NaH | 14.43 mmol, 577 mg, 1.3 eq | [H-].[Na+]
reactant | NaH | 5.55 mmol, 222 mg, 1 eq | [H-].[Na+]
reactant | Water | O | H2O
reactant | THF | 15 mL | C1CCOC1 | C4H8O
product | fluoren-9-ylidene-acetic acid ethyl ester | yield=67% | C(C)OC(C=C1C2=CC=CC=C2C=2C=CC=CC12)=O | C17H14O2
